US06140100
According to example 142, 3.82 g of tert-butyl (2R, 3S)-(-)-6-oxo-2,3-diphenyl-4-morpholinecarboxylate was alkylated with 3.86 g of 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl bromide in 80 mL of anhydrous THF using 11.34 mL of 1 M sodium bis(trimethylsilyl)amide in THF. The crude product was subjected to flash chromatography on silica gel (85:15 hexane:EtOAc) to afford 4.85 g (71%) of tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl)-4-morpholinecarboxylate as a white foam, m.p. 75-83° C.

reactant | tert-butyl (2R, 3S)-(-)-6-oxo-2,3-diphenyl-4-morpholinecarboxylate | 3.82 g | O=C1O[C@@H]([C@@H](N(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C21H23NO4
reactant | 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl bromide | 3.86 g | C(C)(C)(C)C=1C=C(CBr)C=CC1O[Si](C)(C)C(C)(C)C | C17H29BrOSi
reactant | sodium bis(trimethylsilyl)amide | 1 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl)-4-morpholinecarboxylate | 4.85 g, 71% | O=C1O[C@@H]([C@@H](N([C@H]1CC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)C(C)(C)C)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C38H51NO5Si
